US06605629B1
To a mixture of (4-chlorophenyl)-2-(2-methyl-1-imidazolyl)-5-oxazolepropanol (100 mg), methyl 4-hydroxyphenylacetate (76 mg), tributylphosphine (93 mg) and tetrahydrofuran (5 ml) was added 1,1′-(azodicarbonyl)dipiperidine (116 mg) at room temperature, and the resulting mixture was stirred for 1 hour. After the reaction mixture was concentrated, the residue was subjected to silica gel column chromatography, and methyl 4-[3-[4-(4-chlorophenyl)-2-(2-methyl-1-imidazolyl)-5-oxazolyl]propoxy]phenylacetate was obtained as an oil (103 mg, 70%) from an ethyl acetate-hexane (1:1, v/v)-eluted fraction.

reactant | (4-chlorophenyl)-2-(2-methyl-1-imidazolyl)-5-oxazolepropanol | 100 mg | ClC1=CC=C(C=C1)C=1N=C(OC1CCCO)N1C(=NC=C1)C | C16H16ClN3O2
reactant | methyl 4-hydroxyphenylacetate | 76 mg | OC1=CC=C(C=C1)CC(=O)OC | C9H10O3
reactant | tributylphosphine | 93 mg | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1′-(azodicarbonyl)dipiperidine | 116 mg | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | methyl 4-[3-[4-(4-chlorophenyl)-2-(2-methyl-1-imidazolyl)-5-oxazolyl]propoxy]phenylacetate | ClC1=CC=C(C=C1)C=1N=C(OC1CCCOC1=CC=C(C=C1)CC(=O)OC)N1C(=NC=C1)C | C25H24ClN3O4
